* File: Lab3_AND_FA.pex.netlist.pex
* Created: Tue Nov 11 12:50:34 2025
* Program "Calibre xRC"
* Version "v2022.4_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_Lab3_AND_FA_Gnd 1 5 8 23 27 28 32 43 44 48 60 64 75 82 86 93 97 98
+ 102 109 113 114 118 129 130 134 141 145 146 150 157 161 168 172 179 183 190
+ 194 195 199 211 215 226 227 231 242 344 346 349 358 361 364 366 371 374 381
+ 384 386 393 398 401 404 406 411 414 416 421 424 426 431 434 436 443 448 453
+ 460 464 467 469 474 477
c408 477 0 0.00397292f
c409 474 0 0.00282737f
c410 469 0 0.00198646f
c411 464 0 0.00198646f
c412 460 0 0.0636666f
c413 457 0 0.00375948f
c414 436 0 0.00198646f
c415 431 0 0.00198646f
c416 426 0 0.00198646f
c417 421 0 0.00198646f
c418 416 0 0.00198646f
c419 411 0 0.00198646f
c420 406 0 0.00198646f
c421 401 0 0.00198646f
c422 386 0 0.00198646f
c423 381 0 0.00198646f
c424 376 0 0.00198646f
c425 371 0 0.00198646f
c426 366 0 0.00198646f
c427 361 0 0.00198646f
c428 351 0 0.00198646f
c429 346 0 0.00198646f
c430 242 0 0.0427573f
c431 231 0 0.0154723f
c432 227 0 1.43203e-19
c433 226 0 0.060276f
c434 215 0 0.015698f
c435 211 0 1.43203e-19
c436 199 0 0.0187747f
c437 195 0 1.43203e-19
c438 194 0 0.043276f
c439 183 0 0.043276f
c440 172 0 0.043276f
c441 161 0 0.0427573f
c442 150 0 2.43649e-19
c443 146 0 1.43203e-19
c444 145 0 0.0427573f
c445 134 0 2.43649e-19
c446 130 0 1.43203e-19
c447 129 0 0.060276f
c448 118 0 0.015698f
c449 114 0 1.43203e-19
c450 113 0 0.0427573f
c451 102 0 2.43649e-19
c452 98 0 1.43203e-19
c453 97 0 0.043276f
c454 86 0 0.043276f
c455 82 0 2.58238e-20
c456 75 0 0.0427573f
c457 71 0 2.58238e-20
c458 64 0 2.43649e-19
c459 60 0 1.69027e-19
c460 59 0 0.060276f
c461 48 0 0.015698f
c462 44 0 1.43203e-19
c463 43 0 0.0427573f
c464 39 0 1.68505e-20
c465 32 0 2.43649e-19
c466 28 0 1.60053e-19
c467 27 0 0.043276f
c468 16 0 0.0603722f
c469 5 0 0.015698f
c470 1 0 1.43203e-19
r471 477 478 0.506667
r472 473 474 1.38489
r473 469 470 0.506667
r474 468 514 0.197273
r475 467 473 0.21666
r476 467 468 7.87143
r477 463 514 0.0141807
r478 463 464 1.38489
r479 462 512 0.197273
r480 461 514 0.197273
r481 461 462 4.72286
r482 459 512 0.0141807
r483 459 460 2.18711
r484 457 458 0.506667
r485 454 510 0.197273
r486 453 512 0.197273
r487 453 454 6.67714
r488 450 510 0.0141807
r489 449 509 0.197273
r490 448 510 0.197273
r491 448 449 6.67714
r492 445 509 0.0141807
r493 444 508 0.197273
r494 443 509 0.197273
r495 443 444 8.90286
r496 440 508 0.0141807
r497 436 437 0.506667
r498 435 505 0.197273
r499 434 508 0.197273
r500 434 435 6.67714
r501 430 505 0.0141807
r502 430 431 1.38489
r503 426 427 0.506667
r504 425 502 0.197273
r505 424 505 0.197273
r506 424 425 6.67714
r507 420 502 0.0141807
r508 420 421 1.38489
r509 416 417 0.506667
r510 415 499 0.197273
r511 414 502 0.197273
r512 414 415 6.67714
r513 410 499 0.0141807
r514 410 411 1.38489
r515 406 407 0.506667
r516 405 496 0.197273
r517 404 499 0.197273
r518 404 405 6.67714
r519 400 496 0.0141807
r520 400 401 1.38489
r521 399 495 0.197273
r522 398 496 0.197273
r523 398 399 4.45143
r524 395 495 0.0141807
r525 394 494 0.197273
r526 393 495 0.197273
r527 393 394 8.90286
r528 390 494 0.0141807
r529 386 387 0.506667
r530 385 491 0.197273
r531 384 494 0.197273
r532 384 385 6.67714
r533 380 491 0.0141807
r534 380 381 1.38489
r535 376 377 0.506667
r536 375 488 0.197273
r537 374 491 0.197273
r538 374 375 6.67714
r539 370 488 0.0141807
r540 370 371 1.38489
r541 366 367 0.506667
r542 365 485 0.197273
r543 364 488 0.197273
r544 364 365 9.01686
r545 360 485 0.0141807
r546 360 361 1.38489
r547 359 484 0.197273
r548 358 485 0.197273
r549 358 359 6.67714
r550 355 484 0.0141807
r551 351 352 0.506667
r552 349 484 0.197273
r553 349 350 6.67714
r554 345 346 1.38489
r555 344 345 0.0947889
r556 344 350 0.121872
r557 242 478 0.0418175
r558 242 474 0.160909
r559 238 242 0.5
r560 231 477 0.106158
r561 229 231 0.5
r562 227 229 0.0623333
r563 226 470 0.0418175
r564 226 464 0.160909
r565 222 226 0.5
r566 215 469 0.106158
r567 213 215 0.5
r568 211 213 0.0623333
r569 210 460 0.106158
r570 210 457 0.106158
r571 206 210 0.5
r572 199 458 0.106158
r573 197 199 0.5
r574 195 197 0.0623333
r575 194 450 2.37711
r576 190 194 0.5
r577 183 445 2.37711
r578 179 183 0.5
r579 172 440 1.57489
r580 168 172 0.5
r581 161 437 0.0418175
r582 161 431 0.160909
r583 157 161 0.5
r584 150 436 0.106158
r585 148 150 0.5
r586 146 148 0.0623333
r587 145 427 0.0418175
r588 145 421 0.160909
r589 141 145 0.5
r590 134 426 0.106158
r591 132 134 0.5
r592 130 132 0.0623333
r593 129 417 0.0418175
r594 129 411 0.160909
r595 125 129 0.5
r596 118 416 0.106158
r597 116 118 0.5
r598 114 116 0.0623333
r599 113 407 0.0418175
r600 113 401 0.160909
r601 109 113 0.5
r602 102 406 0.106158
r603 100 102 0.5
r604 98 100 0.0623333
r605 97 395 2.37711
r606 93 97 0.5
r607 86 390 1.57489
r608 82 86 0.5
r609 75 387 0.0418175
r610 75 381 0.160909
r611 71 75 0.5
r612 64 386 0.106158
r613 62 64 0.5
r614 60 62 0.0623333
r615 59 377 0.0418175
r616 59 371 0.160909
r617 55 59 0.5
r618 48 376 0.106158
r619 46 48 0.5
r620 44 46 0.0623333
r621 43 367 0.0418175
r622 43 361 0.160909
r623 39 43 0.5
r624 32 366 0.106158
r625 30 32 0.5
r626 28 30 0.0623333
r627 27 355 1.57489
r628 23 27 0.5
r629 16 352 0.0418175
r630 16 346 0.160909
r631 12 16 0.5
r632 8 238 0.215909
r633 8 222 0.215909
r634 8 206 0.215909
r635 8 190 0.215909
r636 8 179 0.215909
r637 8 168 0.215909
r638 8 157 0.215909
r639 8 141 0.215909
r640 8 125 0.215909
r641 8 109 0.215909
r642 8 93 0.215909
r643 8 82 0.215909
r644 8 71 0.215909
r645 8 55 0.215909
r646 8 39 0.215909
r647 8 23 0.215909
r648 8 12 0.215909
r649 5 351 0.106158
r650 3 5 0.5
r651 1 3 0.0623333
.ends

.subckt PM_Lab3_AND_FA_X 1 2 10 12
r22 12 16 0.00422222
r23 10 16 1.1
r24 5 10 0.200208
r25 2 5 1
r26 1 2 7.75
.ends

.subckt PM_Lab3_AND_FA_Y 1 2 8 9 14 17
r29 14 17 1.1
r30 14 15 0.200208
r31 8 10 0.139682
r32 8 9 0.8
r33 5 9 0.139682
r34 2 15 1
r35 2 5 4.945
r36 1 10 2.555
.ends

.subckt PM_Lab3_AND_FA_N_15 1 3 5 6 10 16 17
c28 6 0 1.60614e-19
c29 3 0 4.03874e-19
r30 16 18 0.212391
r31 16 17 4.2086
r32 13 17 0.212391
r33 10 18 1.28778
r34 8 10 0.5
r35 6 8 0.0623333
r36 5 13 1.28778
r37 3 5 0.5
r38 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_11 1 3 5 6 8 10 12 14 16 18 19 34 37 40 41 42 51 55
c62 51 0 3.37009e-20
c63 41 0 1.70226e-20
c64 40 0 1.68505e-20
c65 34 0 3.24099e-20
c66 18 0 2.44274e-19
c67 16 0 3.86852e-19
c68 12 0 2.44274e-19
c69 10 0 3.86852e-19
c70 3 0 1.43764e-19
r71 49 55 0.160909
r72 49 51 4.66556
r73 46 55 0.0418175
r74 42 43 3.46222
r75 40 55 0.160909
r76 40 41 5.19333
r77 36 41 0.212317
r78 36 37 3.99844
r79 32 51 1.1
r80 32 34 0.159091
r81 28 34 0.110077
r82 25 34 0.110077
r83 19 28 5.385
r84 18 42 0.106158
r85 16 18 0.5
r86 14 16 0.0625
r87 12 43 0.0418175
r88 12 37 0.160909
r89 10 12 0.5
r90 8 10 0.0625
r91 6 25 1.815
r92 5 46 1.976
r93 3 5 0.5
r94 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_8 1 3 5 6 7 8 9 11 13 15 16 17 18 19 47 51 55 59 68 72
+ 76 78 86 89 95 101 107 112 114 120 126 132 138
c199 132 0 1.75805e-19
c200 59 0 2.74057e-20
c201 55 0 8.2217e-20
c202 51 0 5.48113e-20
c203 47 0 2.74057e-20
c204 13 0 3.86852e-19
c205 5 0 3.24099e-20
c206 3 0 3.86852e-19
r207 138 141 1.42308
r208 132 135 1.42308
r209 126 129 1.42308
r210 120 123 1.42308
r211 114 117 1.42308
r212 110 138 2
r213 107 110 0.526154
r214 104 132 2
r215 101 104 0.526154
r216 98 126 2
r217 95 98 0.526154
r218 92 120 2
r219 89 92 0.526154
r220 86 141 2
r221 84 135 2
r222 84 86 14.8142
r223 82 129 2
r224 82 84 7.71985
r225 80 123 2
r226 80 82 11.5783
r227 78 80 6.98908
r228 76 117 2
r229 74 78 0.212317
r230 74 76 0.420923
r231 72 114 2
r232 70 72 1.76554
r233 69 112 0.00510857
r234 68 70 0.212384
r235 68 69 1.22746
r236 65 112 0.210814
r237 62 112 0.210814
r238 59 107 1.1
r239 59 60 0.200208
r240 55 101 1.1
r241 55 56 0.200208
r242 51 95 1.1
r243 51 52 0.200208
r244 47 89 1.1
r245 47 48 0.200208
r246 19 60 1
r247 18 56 1
r248 17 52 1
r249 16 48 1
r250 15 65 1.19489
r251 13 15 0.5
r252 11 13 0.0625
r253 9 19 7.75
r254 8 18 7.75
r255 7 17 7.75
r256 6 16 7.75
r257 5 62 4.81756
r258 3 5 0.5
r259 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_A 1 2 3 4 5 6 7 8 34 38 42 46 49 59 62 68 74 80 86 92 98
+ 104
c157 104 0 1.94971e-19
c158 92 0 1.82486e-19
c159 59 0 2.59818e-19
c160 46 0 5.48113e-20
c161 42 0 5.48113e-20
c162 38 0 8.2217e-20
c163 34 0 2.74057e-20
r164 104 107 0.653846
r165 98 101 0.653846
r166 92 95 0.653846
r167 86 89 0.653846
r168 83 104 2
r169 80 83 0.526154
r170 77 98 2
r171 74 77 0.526154
r172 71 92 2
r173 68 71 0.526154
r174 65 86 2
r175 62 65 0.526154
r176 59 107 2
r177 57 101 2
r178 57 59 22.5486
r179 55 95 2
r180 55 57 8.31615
r181 51 89 2
r182 49 55 10.1782
r183 49 51 0.795077
r184 46 80 1.1
r185 46 47 0.200208
r186 42 74 1.1
r187 42 43 0.200208
r188 38 68 1.1
r189 38 39 0.200208
r190 34 62 1.1
r191 34 35 0.200208
r192 8 47 1
r193 7 43 1
r194 6 39 1
r195 5 35 1
r196 4 8 7.75
r197 3 7 7.75
r198 2 6 7.75
r199 1 5 7.75
.ends

.subckt PM_Lab3_AND_FA_Cin 1 2 3 4 5 6 26 30 33 36 44 47 53 59 65 71 77
c125 65 0 1.8605e-19
c126 33 0 2.74057e-20
c127 26 0 5.48113e-20
r128 77 80 1.03846
r129 71 74 1.03846
r130 65 68 1.03846
r131 62 77 2
r132 59 62 0.526154
r133 56 71 2
r134 53 56 0.526154
r135 50 65 2
r136 47 50 0.526154
r137 44 80 2
r138 42 74 2
r139 42 44 7.106
r140 40 68 2
r141 40 42 19.2865
r142 36 40 5.96015
r143 33 59 1.1
r144 33 34 0.200208
r145 30 53 1.1
r146 26 47 1.1
r147 26 27 0.200208
r148 17 30 0.200208
r149 6 34 1
r150 5 17 1
r151 4 27 1
r152 3 6 7.75
r153 2 5 7.75
r154 1 4 7.75
.ends

.subckt PM_Lab3_AND_FA_N_14 1 3 5 6 8 10 11 15 22 23 27 32
c35 27 0 2.58238e-20
c36 22 0 5.16476e-20
c37 11 0 1.43764e-19
c38 8 0 3.86852e-19
c39 3 0 3.86852e-19
r40 28 32 0.184778
r41 27 29 0.214287
r42 27 28 5.15
r43 24 32 0.0230929
r44 22 32 0.184778
r45 22 23 6.15
r46 19 23 0.214287
r47 15 29 1.83244
r48 13 15 0.5
r49 11 13 0.0623333
r50 10 24 1.83244
r51 8 10 0.5
r52 6 8 0.0625
r53 5 19 1.83244
r54 3 5 0.5
r55 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_7 2 4 8 10 14 22 24 25 26 28 30 32
c56 30 0 1.8605e-19
c57 26 0 2.74057e-20
c58 14 0 1.43764e-19
c59 10 0 3.86852e-19
c60 4 0 3.86852e-19
r61 29 32 0.197273
r62 28 30 0.21666
r63 28 29 5.59143
r64 26 32 0.0141807
r65 24 32 0.197273
r66 24 25 6.67714
r67 22 25 0.21666
r68 18 30 0.485556
r69 16 18 0.5
r70 14 16 0.0623333
r71 12 26 0.485556
r72 10 12 0.5
r73 8 10 0.0625
r74 6 22 0.485556
r75 4 6 0.5
r76 2 4 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_10 1 3 5 6 8 10 11 12 14 16 18 20 22 24 25 26 50 55 63
+ 67 69 81 87 89 90 91 92 98 102 104
c138 102 0 8.27662e-20
c139 55 0 3.24099e-20
c140 50 0 3.28316e-20
c141 24 0 1.82486e-19
c142 22 0 1.43764e-19
c143 18 0 5.48113e-20
c144 16 0 1.43764e-19
c145 8 0 1.43764e-19
c146 3 0 1.43764e-19
r147 100 104 0.105861
r148 100 102 13.0865
r149 96 104 0.0275115
r150 96 98 0.457692
r151 92 104 0.105861
r152 92 94 13.4827
r153 84 102 2
r154 84 87 0.704462
r155 78 98 2
r156 78 81 0.704462
r157 74 91 0.13948
r158 71 91 0.13948
r159 70 90 0.245011
r160 69 91 0.0609838
r161 69 70 1.835
r162 67 94 2
r163 65 90 0.0155046
r164 65 67 0.394615
r165 64 89 0.0609838
r166 63 90 0.245011
r167 63 64 1.615
r168 60 89 0.13948
r169 57 89 0.13948
r170 53 87 1.1
r171 53 55 0.159091
r172 48 81 1.1
r173 48 50 0.159091
r174 44 55 0.110077
r175 41 55 0.110077
r176 38 50 0.110077
r177 35 50 0.110077
r178 26 44 4.265
r179 25 38 2.75
r180 24 74 4.82178
r181 22 24 0.5
r182 20 22 0.0625
r183 18 60 4.01956
r184 16 18 0.5
r185 14 16 0.0625
r186 12 41 2.935
r187 11 35 4.45
r188 10 71 1.40178
r189 8 10 0.5
r190 6 8 0.0625
r191 5 57 2.204
r192 3 5 0.5
r193 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_13 1 6 8 10 13 15 16
c33 8 0 3.86852e-19
c34 1 0 1.43764e-19
r35 15 17 0.214287
r36 15 16 7.2
r37 13 16 0.214287
r38 10 17 1.48622
r39 8 10 0.5
r40 6 8 0.0625
r41 5 13 0.684
r42 3 5 0.5
r43 1 3 0.0623333
.ends

.subckt PM_Lab3_AND_FA_N_6 2 6 8 10 18 19 20
c43 20 0 5.48113e-20
c44 10 0 3.86852e-19
c45 6 0 8.2217e-20
c46 2 0 1.43764e-19
r47 18 20 0.21666
r48 18 19 7.81714
r49 15 19 0.21666
r50 12 20 0.485556
r51 10 12 0.5
r52 8 10 0.0625
r53 6 15 1.28778
r54 4 6 0.5
r55 2 4 0.0623333
.ends

.subckt PM_Lab3_AND_FA_N_12 1 3 5 6 8 10 11 13 15 16 20 28 29 33 38 43 44
c64 16 0 1.43764e-19
c65 13 0 3.86852e-19
c66 8 0 3.86852e-19
c67 3 0 3.86852e-19
r68 39 44 0.197273
r69 38 40 0.21666
r70 38 39 5.59143
r71 35 44 0.0141807
r72 34 43 0.197273
r73 33 44 0.197273
r74 33 34 6.67714
r75 30 43 0.0141807
r76 28 43 0.197273
r77 28 29 6.67714
r78 25 29 0.21666
r79 20 40 1.28778
r80 18 20 0.5
r81 16 18 0.0623333
r82 15 35 1.28778
r83 13 15 0.5
r84 11 13 0.0625
r85 10 30 1.28778
r86 8 10 0.5
r87 6 8 0.0625
r88 5 25 1.28778
r89 3 5 0.5
r90 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_1 2 4 8 10 14 16 20 29 31 32 33 35 37 39 41 43 44
c83 33 0 8.2217e-20
c84 20 0 1.43764e-19
c85 16 0 3.86852e-19
c86 10 0 3.86852e-19
c87 4 0 3.86852e-19
r88 40 44 0.197273
r89 39 41 0.21666
r90 39 40 5.59143
r91 37 44 0.0141807
r92 36 43 0.197273
r93 35 44 0.197273
r94 35 36 6.67714
r95 33 43 0.0141807
r96 31 43 0.197273
r97 31 32 6.67714
r98 29 32 0.21666
r99 24 41 0.485556
r100 22 24 0.5
r101 20 22 0.0623333
r102 18 37 0.485556
r103 16 18 0.5
r104 14 16 0.0625
r105 12 33 0.485556
r106 10 12 0.5
r107 8 10 0.0625
r108 6 29 0.485556
r109 4 6 0.5
r110 2 4 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_9 1 3 5 6 8 11 13 15 19 21 23 24 40 46 48 49 51 53 55
+ 64 66 70 72 77
c97 70 0 3.28316e-20
c98 40 0 1.14722e-19
c99 21 0 1.43764e-19
c100 15 0 1.43764e-19
c101 8 0 1.43764e-19
c102 3 0 1.43764e-19
r103 74 77 9.08269
r104 70 74 2
r105 67 70 0.321538
r106 61 77 2
r107 61 64 0.952923
r108 54 72 0.0704343
r109 53 57 0.21666
r110 53 54 4.45143
r111 52 66 0.0704343
r112 51 55 0.21666
r113 51 52 4.45143
r114 49 72 0.12992
r115 48 72 0.12992
r116 47 67 0.0900367
r117 47 48 1.11467
r118 46 67 0.0900367
r119 45 66 0.12992
r120 45 46 2.51644
r121 42 66 0.12992
r122 38 64 1.1
r123 38 40 0.161364
r124 34 40 0.110077
r125 31 40 0.110077
r126 24 34 2.755
r127 23 57 1.28778
r128 21 23 0.5
r129 19 21 0.0625
r130 17 49 0.485556
r131 15 17 0.5
r132 13 15 0.0625
r133 11 31 4.445
r134 10 55 0.485556
r135 8 10 0.5
r136 6 8 0.0625
r137 5 42 1.28778
r138 3 5 0.5
r139 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_N_5 1 6 8 13 15 16 17
c29 8 0 1.43764e-19
c30 1 0 1.43764e-19
r31 15 17 0.21666
r32 15 16 5.59143
r33 13 16 0.21666
r34 10 17 0.485556
r35 8 10 0.5
r36 6 8 0.0625
r37 5 13 0.485556
r38 3 5 0.5
r39 1 3 0.0623333
.ends

.subckt PM_Lab3_AND_FA_N_2 2 6 8 10 12 18 19
c37 10 0 1.43764e-19
c38 6 0 2.74057e-20
c39 2 0 1.43764e-19
r40 18 20 0.21666
r41 18 19 5.59143
r42 15 19 0.21666
r43 12 20 1.28778
r44 10 12 0.5
r45 8 10 0.0625
r46 6 15 1.28778
r47 4 6 0.5
r48 2 4 0.0623333
.ends

.subckt PM_Lab3_AND_FA_N_4 1 6 8 13 15 16 17
c28 8 0 1.43203e-19
c29 1 0 1.43764e-19
r30 15 17 0.21666
r31 15 16 5.59143
r32 13 16 0.21666
r33 10 17 0.485556
r34 8 10 0.5
r35 6 8 0.0625
r36 5 13 0.485556
r37 3 5 0.5
r38 1 3 0.0623333
.ends

.subckt PM_Lab3_AND_FA_N_3 2 6 8 10 12 18 19
c34 12 0 1.94971e-19
c35 10 0 3.86852e-19
c36 6 0 2.74057e-20
c37 2 0 1.43764e-19
r38 18 20 0.21666
r39 18 19 5.59143
r40 15 19 0.21666
r41 12 20 1.28778
r42 10 12 0.5
r43 8 10 0.0625
r44 6 15 1.28778
r45 4 6 0.5
r46 2 4 0.0623333
.ends

.subckt PM_Lab3_AND_FA_Vdd 4 17 21 25 38 42 46 59 63 67 78 80 84 88 95 99 101
+ 105 109 116 120 124 131 135 139 146 150 152 156 160 171 173 177 181 188 192
+ 194 198 202 209 213 215 219 223 230 234 238 245 249 253 260 264 268 279 281
+ 285 289 300 302 306 310 321 323 327 357 362 363 365 366 374 379 380 387 390
+ 399 400 402 411 412 414 422 427 433 434 436 445 446 448 457 458 460 469 470
+ 472 480 485 490 496 500 506 507 509 518 526 528 530 532 533 534 536 538 540
+ 542 543 544 545 546 548
c426 549 0 0.0153781f
c427 547 0 0.0153781f
c428 541 0 0.0153781f
c429 539 0 0.0153781f
c430 537 0 0.0153781f
c431 535 0 0.0153781f
c432 531 0 0.0153781f
c433 527 0 0.0153781f
c434 525 0 0.0153781f
c435 524 0 0.0153781f
c436 519 0 0.0193237f
c437 518 0 0.00282737f
c438 507 0 1.22132e-19
c439 506 0 0.00198646f
c440 496 0 0.0154636f
c441 495 0 0.0369536f
c442 490 0 6.49546e-20
c443 470 0 1.22132e-19
c444 469 0 0.00198646f
c445 458 0 2.97938e-19
c446 457 0 0.00198646f
c447 448 0 6.49546e-20
c448 446 0 1.76944e-19
c449 445 0 0.00198646f
c450 434 0 1.22132e-19
c451 433 0 0.00198646f
c452 422 0 6.49546e-20
c453 412 0 1.22132e-19
c454 411 0 0.00198646f
c455 402 0 6.49546e-20
c456 400 0 1.49538e-19
c457 388 0 0.00210859f
c458 387 0 0.00198646f
c459 379 0 0.00198646f
c460 374 0 1.22132e-19
c461 373 0 0.00198646f
c462 363 0 0.00210859f
c463 362 0 0.00198646f
c464 327 0 1.21516e-19
c465 323 0 1.43203e-19
c466 321 0 0.0273793f
c467 306 0 1.21516e-19
c468 302 0 1.43203e-19
c469 300 0 0.0273793f
c470 285 0 0.00360956f
c471 281 0 1.43203e-19
c472 279 0 0.0308978f
c473 264 0 0.043276f
c474 249 0 0.043276f
c475 234 0 0.043276f
c476 219 0 1.21516e-19
c477 215 0 1.43203e-19
c478 213 0 0.0273793f
c479 198 0 1.21516e-19
c480 194 0 1.43203e-19
c481 192 0 0.0273793f
c482 177 0 0.0155758f
c483 173 0 1.43203e-19
c484 171 0 0.0452502f
c485 156 0 1.21516e-19
c486 152 0 1.43203e-19
c487 150 0 0.0273793f
c488 135 0 0.043276f
c489 120 0 0.043276f
c490 105 0 1.21516e-19
c491 101 0 1.43203e-19
c492 99 0 0.0273793f
c493 84 0 0.0155758f
c494 80 0 1.43203e-19
c495 78 0 0.0178709f
c496 63 0 0.0155758f
c497 59 0 1.43203e-19
c498 57 0 0.0452502f
c499 42 0 0.0155758f
c500 38 0 3.87476e-19
c501 36 0 0.0452502f
c502 21 0 0.0155758f
c503 17 0 3.87476e-19
c504 15 0 0.0453464f
r505 520 549 0.0418175
r506 519 521 0.212317
r507 519 520 0.506667
r508 517 549 0.160909
r509 517 518 1.81556
r510 514 549 0.160909
r511 510 548 0.197273
r512 509 518 0.21666
r513 509 510 7.87143
r514 508 547 0.0418175
r515 507 511 0.212317
r516 507 508 0.506667
r517 506 548 0.0141807
r518 505 547 0.160909
r519 505 506 1.81556
r520 502 547 0.160909
r521 501 546 0.197273
r522 500 548 0.197273
r523 500 501 4.72286
r524 498 546 0.0141807
r525 495 497 0.212317
r526 495 496 0.506667
r527 492 496 0.212317
r528 491 545 0.197273
r529 490 546 0.197273
r530 490 491 6.67714
r531 487 545 0.0141807
r532 486 544 0.197273
r533 485 545 0.197273
r534 485 486 6.67714
r535 482 544 0.0141807
r536 481 543 0.197273
r537 480 544 0.197273
r538 480 481 8.90286
r539 477 543 0.0141807
r540 473 542 0.197273
r541 472 543 0.197273
r542 472 473 6.67714
r543 471 541 0.0418175
r544 470 474 0.212317
r545 470 471 0.506667
r546 469 542 0.0141807
r547 468 541 0.160909
r548 468 469 1.81556
r549 465 541 0.160909
r550 461 540 0.197273
r551 460 542 0.197273
r552 460 461 6.67714
r553 459 539 0.0418175
r554 458 462 0.212317
r555 458 459 0.506667
r556 457 540 0.0141807
r557 456 539 0.160909
r558 456 457 1.81556
r559 453 539 0.160909
r560 449 538 0.197273
r561 448 540 0.197273
r562 448 449 6.67714
r563 447 537 0.0418175
r564 446 450 0.212317
r565 446 447 0.506667
r566 445 538 0.0141807
r567 444 537 0.160909
r568 444 445 1.81556
r569 441 537 0.160909
r570 437 536 0.197273
r571 436 538 0.197273
r572 436 437 6.67714
r573 435 535 0.0418175
r574 434 438 0.212317
r575 434 435 0.506667
r576 433 536 0.0141807
r577 432 535 0.160909
r578 432 433 1.81556
r579 429 535 0.160909
r580 428 534 0.197273
r581 427 536 0.197273
r582 427 428 4.45143
r583 424 534 0.0141807
r584 423 533 0.197273
r585 422 534 0.197273
r586 422 423 8.90286
r587 419 533 0.0141807
r588 415 532 0.197273
r589 414 533 0.197273
r590 414 415 6.67714
r591 413 531 0.0418175
r592 412 416 0.212317
r593 412 413 0.506667
r594 411 532 0.0141807
r595 410 531 0.160909
r596 410 411 1.81556
r597 407 531 0.160909
r598 403 530 0.197273
r599 402 532 0.197273
r600 402 403 6.67714
r601 401 529 0.0418175
r602 400 404 0.212317
r603 400 401 0.506667
r604 399 530 0.0141807
r605 398 529 0.160909
r606 398 399 1.81556
r607 395 529 0.160909
r608 391 528 0.197273
r609 390 530 0.197273
r610 390 391 9.01686
r611 389 527 0.0418175
r612 388 392 0.212317
r613 388 389 0.506667
r614 387 528 0.0141807
r615 386 527 0.160909
r616 386 387 1.81556
r617 383 527 0.160909
r618 381 526 0.197273
r619 380 528 0.197273
r620 379 526 0.0141807
r621 378 525 0.160909
r622 378 379 1.81556
r623 375 525 0.160909
r624 373 525 0.0418175
r625 373 374 0.506667
r626 370 374 0.212317
r627 365 526 0.197273
r628 365 366 8.90286
r629 364 524 0.0418175
r630 363 367 0.212317
r631 363 364 0.506667
r632 362 366 0.21666
r633 361 524 0.160909
r634 361 362 1.81556
r635 358 524 0.160909
r636 357 380 1.87286
r637 357 381 2.57857
r638 327 521 0.612222
r639 325 327 0.5
r640 323 325 0.0623333
r641 321 514 0.612222
r642 317 321 0.5
r643 310 317 0.215909
r644 306 511 0.612222
r645 304 306 0.5
r646 302 304 0.0623333
r647 300 502 0.612222
r648 296 300 0.5
r649 289 296 0.215909
r650 285 492 0.612222
r651 283 285 0.5
r652 281 283 0.0623333
r653 279 498 2.00556
r654 279 497 0.612222
r655 275 279 0.5
r656 268 275 0.215909
r657 264 487 2.00556
r658 260 264 0.5
r659 253 260 0.215909
r660 249 482 2.00556
r661 245 249 0.5
r662 238 245 0.215909
r663 234 477 2.80778
r664 230 234 0.5
r665 223 230 0.215909
r666 219 474 0.612222
r667 217 219 0.5
r668 215 217 0.0623333
r669 213 465 0.612222
r670 209 213 0.5
r671 202 209 0.215909
r672 198 462 0.612222
r673 196 198 0.5
r674 194 196 0.0623333
r675 192 453 0.612222
r676 188 192 0.5
r677 181 188 0.215909
r678 177 450 0.612222
r679 175 177 0.5
r680 173 175 0.0623333
r681 171 441 0.612222
r682 167 171 0.5
r683 160 167 0.215909
r684 156 438 0.612222
r685 154 156 0.5
r686 152 154 0.0623333
r687 150 429 0.612222
r688 146 150 0.5
r689 139 146 0.215909
r690 135 424 2.00556
r691 131 135 0.5
r692 124 131 0.215909
r693 120 419 2.80778
r694 116 120 0.5
r695 109 116 0.215909
r696 105 416 0.612222
r697 103 105 0.5
r698 101 103 0.0623333
r699 99 407 0.612222
r700 95 99 0.5
r701 88 95 0.215909
r702 84 404 0.612222
r703 82 84 0.5
r704 80 82 0.0623333
r705 78 395 0.612222
r706 74 78 0.5
r707 67 74 0.215909
r708 63 392 0.612222
r709 61 63 0.5
r710 59 61 0.0623333
r711 57 383 0.612222
r712 53 57 0.5
r713 46 53 0.215909
r714 42 370 0.612222
r715 40 42 0.5
r716 38 40 0.0623333
r717 36 375 0.612222
r718 32 36 0.5
r719 25 32 0.215909
r720 21 367 0.612222
r721 19 21 0.5
r722 17 19 0.0623333
r723 15 358 0.612222
r724 11 15 0.5
r725 4 11 0.215909
.ends

.subckt PM_Lab3_AND_FA_Sum 1 3 5 7 9 14
c16 9 0 3.86852e-19
c17 5 0 3.19561e-20
c18 3 0 3.86852e-19
r19 11 14 1.35533
r20 9 11 0.5
r21 7 9 0.0625
r22 5 14 5.18911
r23 3 5 0.5
r24 1 3 0.0625
.ends

.subckt PM_Lab3_AND_FA_Cout 1 3 5 7 9 14
c13 9 0 3.86852e-19
c14 5 0 3.24099e-20
c15 3 0 3.86852e-19
r16 11 14 2.66422
r17 9 11 0.5
r18 7 9 0.0625
r19 5 14 3.88022
r20 3 5 0.5
r21 1 3 0.0625
.ends

